US07345049B2
The mixture of 3-dimethylaminomethyl-2-nitrobenzoic acid hydrochloride (0.1 g) and thionylchloride (5 mL) was stirred at 80° C. for 3 hours. The solvent was removed and the residue was dried to obtain 3-dimethylamino methyl-2-nitrobenzoyl chloride.

reactant | 3-dimethylaminomethyl-2-nitrobenzoic acid hydrochloride | 0.1 g | Cl.CN(C)CC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-]
reactant | thionylchloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-dimethylamino methyl-2-nitrobenzoyl chloride | CN(C)CC=1C(=C(C(=O)Cl)C=CC1)[N+](=O)[O-] | C10H11ClN2O3
